US08580780B2
To 6-(5-bromo-pyridin-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (219 mg, 0.452 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (18 mg, 0.022 mmol) under dry nitrogen add with stirring a solution of 0.5M 3-methylbutylzinc bromide in THF (4.6 mL, 2.3 mmol). Degas, purge with dry nitrogen, and stir overnight at ambient temperature. Dilute with EtOAc, wash with water, dry over anhydrous MgSO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (5:1) to give 3-tert-butoxycarbonyl-7-chloro-6-[5-(3-methyl-butyl)-pyridin-2-ylmethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (160 mg, 75%). MS (APCI+) m/z: 475 (M+H)+. Use a method similar to the General Procedure 1-4 to give the title compound as a tan solid. MS (APCI+) m/z: 375 (M+H)+.

reactant | 6-(5-bromo-pyridin-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.452 mmol, 219 mg | BrC=1C=CC(=NC1)CSC1=C(C=CC=2CCN(CCC21)C(=O)OC(C)(C)C)Cl | C21H24BrClN2O2S
reactant | 3-methylbutylzinc bromide | 0.5M | [Br-].CC(CC[Zn+])C
reactant | THF | 2.3 mmol, 4.6 mL | C1CCOC1 | C4H8O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.022 mmol, 18 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 3-tert-butoxycarbonyl-7-chloro-6-[5-(3-methyl-butyl)-pyridin-2-ylmethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 160 mg, 75% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=NC=C(C=C2)CCC(C)C | C26H35ClN2O2S
